US07375115B2
2-Cyclooctylethanol
To a solution of ethyl cyclooctylideneacetate (969 mg) in ethanol (40 mL) was added 10% palladium-carbon (60 mg). The solution was stirred under hydrogen atmosphere at room temperature for 64 hours. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. To a solution of the resulting residue (920 mg) in diethyl ether (40 mL) was added lithium aluminum hydride (132 mg) under ice cooling. The solution was stirred under ice cooling for 30 minutes and then water (0.13 mL), and a 15% aqueous sodium hydroxide solution (0.13 mL) were successively added thereto. The solution was stirred at room temperature for 15 minutes, to which water (0.39 mL) was then added. The solution was stirred for additional 30 minutes, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=2:1) to give the title compound (680 mg).

reactant | ethyl cyclooctylideneacetate | 969 mg | C1(CCCCCCC1)=CC(=O)OCC | C12H20O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 60 mg | [C].[Pd]
product | 2-Cyclooctylethanol | 680 mg | C1(CCCCCCC1)CCO | C10H20O
